US05389292
Difluoromethoxy-(5-propyl-1,3-dioxan-2-yl)-benzene (sic)
17.2 g of p-difluoromethoxybenzaldehyde (commercially available from Fluorochem. Ltd. (GB)), 10.4 g of ethylpropanediol and 0.2 g of p-TsOH are heated to boiling for 2 hours in 100 ml of toluene. After evaporation of the solvent, the mixture is worked up as usual.

reactant | p-difluoromethoxybenzaldehyde | 17.2 g | FC(OC1=CC=C(C=O)C=C1)F | C8H6F2O2
reactant | ethylpropanediol | 10.4 g | C(C)C(CC)(O)O | C5H12O2
reactant | p-TsOH | 0.2 g | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | Difluoromethoxy-(5-propyl-1,3-dioxan-2-yl)-benzene | FC(OC1=C(C=CC=C1)C1OCC(CO1)CCC)F | C14H18F2O3
